US05635510
39.1 Synthesis of 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid dimethyl-amide
Prepare by the method of example 20.8 using 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid (4.0 mmol) and (CH3)2NH. Purify to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid | 4.0 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
reactant | (CH3)2NH | N(C)C | C2H7N
product | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid dimethyl-amide | CN(C(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C19H28N2O3
